Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
rash
 
Major Surgical or Invasive Procedure:
punch biopsy
 
History of Present Illness:
___ year old gentleman with a PMH significant for an autoimmune 
syndrome/vasculitis, CIDP, bilateraly hip AVN s/p b/l hip 
replacement, and renal failure now admitted for new onset LLE 
rash. 

On evening prior to admission, patient noted acute left lower 
extremity pain associated with a rash and fevers.  Rash spread 
from his foot up to below his knee, with scattered areas on his 
thigh and possibly abdomen. He also endorses knee and ankle 
pain, as well as some mildly worsened swelling in his LLE. 
Denies any CP/SOB, abd pain, cough, hemoptysis, n/v/d or other 
symptoms.  Of note, he recently started high dose 
immunosuppressants: cytoxan, prednisone 60mg daily (and bactrim 
for PCP ___ for progressive proteinuria, concerning for RPGN.  
Patient mistakenly kept taking cellcept for several days during 
this period of time.  Recently traveled to ___, no other 
unusual exposures.  

In the ___ ED, initial VS 100.8 95 139/86 18 100%RA. The 
patient received vancomycin and amp/sulbactam, and was admitted 
to Medicine for further management. 
 
Past Medical History:
1. Autoimmune syndrome/vasculitis: Characterized by fluctuating  

lymph nodes, Raynaud's phenomenon, skin ulcerations, neuropathy, 
 
and arthralgias. Followed by rheumatology and pulmonary in  
clinic.  
2. History of chronic inflammatory demyelinating polyneuropathy, 
 
status post four plasmapheresis sessions in ___.  
3. Bilateral hip avascular necrosis in the setting of steroid  
therapy, status post bilateral hip replacements.  
4. Hypertension: Diagnosed about ___ years ago.  
5. Rising creatinine concerning for RPGN, results from biopsy 
pending
 
Social History:
___
Family History:
His sister also has an undiagnosed autoimmune condition, 
currently in remission. He denies any history of diabetes, 
hypertension, or kidney disease in the family.  
 
Physical Exam:
VS - Temp 98.7 F, BP 116/85, HR 74, R 18, O2-sat 99% RA
GENERAL - well-appearing man in NAD, comfortable, NAD; slightly 
cushingoid features with dorsal fat pad
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM
NECK - supple, no thyromegaly, no JVD
LUNGS - CTA bilat, no r/rh/wh
HEART - RRR, no MRG, nl S1-S2
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding
EXTREMITIES - 3+ pitting edema b/l; 2+ peripheral pulses 
(radials, DPs)
SKIN - scattered areas petechial, nonpalpable rash on LLE 
becoming confluent at ankle and extending to distal thigh.  No 
rubor, mildly tender to palpation; centripital area of clearing 
surrounding 1X1 mm deep ulceration on ventral surface calf.  
Multiple deep ulcerations on shins b/l with clean base and no 
discharge (as per patient are chronic).  Hands bilaterally with 
pericapillary necrosis, erythematous/ nonpainful to palpation 
 
Pertinent Results:
Labs on admission:

___ 03:50PM   WBC-8.1 RBC-3.80* HGB-11.4* HCT-35.4* MCV-93 
MCH-30.0 MCHC-32.2 RDW-14.2
___ 03:50PM   NEUTS-95.4* LYMPHS-2.2* MONOS-2.2 EOS-0.2 
BASOS-0
___ 03:50PM   PLT COUNT-189
___ 03:50PM   UREA N-37* CREAT-1.8* SODIUM-133 
POTASSIUM-5.4* CHLORIDE-100 TOTAL CO2-27 ANION GAP-11
___ 03:50PM   TOT PROT-5.0* ALBUMIN-3.2* GLOBULIN-1.8* 
CALCIUM-8.5 PHOSPHATE-3.2
___ 03:50PM   CRP-99.2*
___ 03:50PM   SED RATE-13
___ 03:50PM URINE Hours-RANDOM Creat-116 TotProt-230 
Prot/Cr-2.0*

Imaging:
LLE doppler: ___
No DVT in left lower extremity. Limited visualization of calf 
veins. Soft tissue edema in the calf.
 
 
Brief Hospital Course:
Mr. ___ is a ___ year old gentleman with a PMH significant 
for an autoimmune syndrome/vasculitis, CIDP, bilateraly hip AVN, 
and renal failure now admitted for LLE rash

1. Rash: Presented with fever and petechial rash on left lower 
extremity thought to be secondary to cellulitis.  Although 
vasculitis was in the differential, this was thought to be less 
likely as rash was asymmetric and patient was on high dose 
immunosuppressants.  The rash was atypical for a 
hypersensitivity reaction and though patient had just initiated 
bactrim for PCP prophylaxis, this was thought to be an unlikely 
cause.  Ultrasound was negative for DVT.   Patient was initially 
maintained on unasyn/ vancomycin which was switched to keflex at 
time of discharge.  Patient instructed to complete a 10 day 
course of antibiotics and follow up closely with PCP.

2. Lower extremity ulcerations: Presented with nonhealing 
ulcerations on bilateral lower extremities, differential 
diagnosis includes pyogenic gangrenosum from medium vessel 
vasculitis, cryoglobulinemia, or
thrombophilic state.  Although wounds were poorly healing in 
setting of high dose steroid use, there was also concern for  
secondary infection.  Dermatology was consulted and performed a 
punch biopsy.  At the time of discharge, tissue had grown scarce 
yeast (thought to be normal skin contaminant) with wound culture 
pending.  Labs to evaluate for thrombophilia were also pending 
at time of discharge and should be followed up as an outpatient. 
 

3. Lupus Nephritis:Renal biopsy on ___ consistent with 
membranous lupus nephritis and patient initated treatment with 
cytoxan and high dose prednisone.   Renal function has 
subsequently stabilized/ minally improved.  Patient maintained 
on current dose of prednisone with bactrim for PCP ___.  
 He will follow up with his nephrologist as an outpatient for 
further management.  

4. Hypertension: stable, continue nifedipine.

5. Hypogonadism:  stable, maintained on testim throughout 
hospitalization. 
 
Medications on Admission:
Alendronate weekly
Clotrimazole troches
Cyclophosphamide
MVI
Nifedipine ER 60 mg daily
Zofran
Prednisone 60 mg daily
TMP-SMX DS MWF
Testosterone ___ 1% gel
Vardenafil 20 mg prn
Vit C 500 mg daily
B complex
Ca-Vit D
Glucosamine
Loratidine 10 mg daily
Omeprazole 20 mg daily
Vitamin E
 
Discharge Medications:
1. Clotrimazole 10 mg Troche Sig: One (1) Troche Mucous membrane 
QID (4 times a day).  
2. Alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week.  

3. Nifedipine 60 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO DAILY (Daily).  
4. Prednisone 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
5. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
6. Testosterone 5 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).  
7. Mupirocin Calcium 2 % Cream Sig: One (1) Appl Topical BID (2 
times a day).
Disp:*1 tube* Refills:*2*
8. Vardenafil 20 mg Tablet Sig: One (1) Tablet PO daily as 
needed for sexual dysfunction.  
9. Calcium 500 + D (D3) 500-125 mg-unit Tablet Sig: One (1) 
Tablet PO three times a day.  
10. Bactrim DS 800-160 mg Tablet Sig: One (1) Tablet PO MWF: for 
treatment of cellulitis.
Disp:*0 * Refills:*0*
11. Loratadine 10 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for allergy symptoms.  
12. Keflex ___ mg Capsule Sig: One (1) Capsule PO three times a 
day for 14 days.
Disp:*42 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
vascultitis
petechial rash
lower extremity ulcers of unclear etiology
acute renal failure, lupus nephritis

 
Discharge Condition:
stable, afebrile, petechial rash on LLE improving, multiple 
ulcers on ___.  Creatinine 1.4. 

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___, It was a pleasure to care of you during your 
hospitlaization.  You were admitted for a new rash on your left 
leg.  You were started on antibiotics prior ot your discharge.  
It is EXTREMLY important that you see a doctor ___ primary 
care or go to the emergency room) if you develop fevers, chills, 
night sweats, or any other concerning symptom.  

Secondly, your kidney function was worse on this admission than 
previously.  It is improving, but needs to be followed.  Your 
potassium level has also been on the higher side of normal and 
you should follow a low potassium diet (in addition to your low 
sodium diet). Biopsy results from ___ suggest that lupus may 
be affecting your kidney, which is likely the cause of the 
abnormal lab results.  Please follow up with your primary care 
doctor in ___ days to check your kidney function and your 
potassium levels.  Instructions regarding a low potassium diet 
will be provided. 

Medications changed during this hospitalization: 
- Please stop taking Cellcept and Cytoxan.
- Please start taking Keflex ___ every 8 hours for 14 days.
- Please start using mupirocin cream on your leg and cover with 
duoderm dressing.  Dressing to be changed every 48 hrs
- Otherwise continue home medicatins as prescribed. 
 
Followup Instructions:
___